US09127024B2
Step 1: Synthesis of 3-methyl-5-(4,4,5,5,-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoyl chloride
3-Methyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid (700 mg, 2.67 mmol) was placed into 100 ml round bottom flask equipped with a stir bar. 3.0 ml of anhydrous chloroform was added to the flask followed by 2.0 ml of thionyl chloride and 1 drop of anhydrous DMF. The reaction mixture was stirred at 35° C. for 3 hours and then at room temperature overnight. LCMS of the sample after quenching a small amount with MeOH showed that no acid left. The solvent and excess thionyl chloride was removed under vacuum to give SKC-03-071. SKC-03-071 was used in the next step without further purification.

reactant | 3-Methyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzoic acid | 2.67 mmol, 700 mg | CC=1C=C(C(=O)O)C=C(C1)B1OC(C(O1)(C)C)(C)C | C14H19BO4
reactant | thionyl chloride | 2.0 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | chloroform | 3.0 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-methyl-5-(4,4,5,5,-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoyl chloride | CC=1C=C(C(=O)Cl)C=C(C1)B1OC(C(O1)(C)C)(C)C | C14H18BClO3
